US04522828
A 1M solution of diisobutylaliminohydride in hexane (200 ml) was added under nitrogen to a solution of 1-phenyl-1-cyclobutane carbonitrile (31.4 g) in ether (100 ml) at a temperature below -30° C. The temperature was maintained below 0° C. for thirty minutes and 5N hydrochloric acid (200 ml) at a temperature of -10° C. added. The reaction mixture was washed with petroleum ether (b.p. 60°-80° C.) and then warmed to 40° C. The reaction mixture was extracted with petroleum ether (b.p. 60°-80° C.) and the extract dried and evaporated to yield 1-phenyl-1-cyclobutane-carbaldehyde as an oil.

reactant | 1-phenyl-1-cyclobutane carbonitrile | 31.4 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
reactant | hydrochloric acid | 5N, 200 ml | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-phenyl-1-cyclobutane-carbaldehyde | C1(=CC=CC=C1)C1(CCC1)C=O | C11H12O
